2198-01-27 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypertesive urgency
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2198-1-26**] 03:00 PM
   - SBP's to 200's, got iv lopressor, iv hydral x2 with SBP's to 180's
   - got one dose of hydral 10mg po and put back on labetalol gtt with
   good effect
   - weaned off labetalol gtt
   - bp's incrreased back to 190's - got an additional dose of po
   hydralizine nad iv hydralizine with bps to 150's
   - Amlodipine 5mg added  and metoprolol increased to 50mg [**Hospital1 **] both to
   start this mornimg
   - had sugars into 300's - per patient takes NPH 20 units qam/pm -
   started her on this
   History obtained from Patient
   Allergies:
   History obtained from PatientBactrim (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Amoxicillin
   Unknown;
   Abacavir
   Pt can never re
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-1-26**] 09:39 AM
   Hydralazine - [**2198-1-26**] 01:25 PM
   Hydromorphone (Dilaudid) - [**2198-1-26**] 03:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2198-1-27**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 91 (73 - 94) bpm
   BP: 171/60(88) {129/52(68) - 198/85(112)} mmHg
   RR: 23 (0 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  5,518 mL
                                                                    450 mL
   PO:
                                                                    200 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  5,318 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    600 mL
   Urine:
                                                                  2,380 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,338 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, mmm
   Cardiovascular: regular rate 2/6 SEM at apex
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, surgical incisions C/D/I with stable,
   minimal drainage
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: A/o x3
   Labs / Radiology
   319 K/uL
   9.7 g/dL
   159 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   91 mEq/L
   127 mEq/L
   27.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2198-1-26**]  04:59 AM
                             [**2198-1-27**]  04:59 AM
   WBC
   8.7
   9.0
   Hct
   32.0
   27.7
   Plt
   322
   319
   Cr
   0.7
   0.6
   Glucose
   243
   159
   Other labs: PT / PTT / INR:13.4/34.5/1.1, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERTENSION, BENIGN
   47F with HTN, DM, HIV on HAART, s/p TAH for fibroids, with somnolence
   requiring BiPAP in PACU after receiving analgesics, also hypertensive
   urgency
   # HTN:  Continued to be HTN to 200's requiring po prn po and iv
   medications.  has responded well to hydralizine, but given that it is a
   q6h dosing, need to have her on something less frequent as she will
   likely need to be discharged on this.
   - goal BP's 140-160--goal was 160-170 with first 24 hours, but has
   continued to be in hypertensive urgency, so should still be cautious of
   lower bp too aggressively and cauing cerebral ischemia [**2-19**] to
   autoregulation
   - continue lisinopril40 qd, HCTZ 25 qd
   - metoprolol increased to 50mg [**Hospital1 **] to start today
 would continue to
   increase this consider tid dosing given hr in 90
   - Amlodipine 5mg added to start today
   - had abd CT in [**Month (only) **], no evidence of adrenal mass
   - consider further w/u for secondary HTN if bps do not come down with
   aggressive beta blocker treatment
   - continue iv hydral prn
   # Hyponatremia/Hypochloremia: Na 127 and Cl 91 this morning, have been
   low in past.  Likely [**2-19**] to diuretic use.  Patient also autodiuresing,
   expect Na to rise with that
   - D/c HCTZ
   - check pm lytes, if continue to trend down, check urine lytes
   # s/p TAH:  Minimal pain this morning, on dilaudid with good effect.
   Seroosanguinous drainage from incision as is expected
   - pain control Dilaudid prn (received ; No Toradol [**2-19**] G6PD)
   - d/c foley
   - encourage ambulation
   - ADAT
   # Sommnolence: Resolved completely.  Initial respiratory depression [**2-19**]
   narcotics + likely obesity hypoventilation.  Intermittently desats to
   80's while sleeping though fine when awake
   -          trend
   -
   # Diabetes:  Sugars running in 300's yesterday, restarted NPH
   20qam/pm.  Sugars still in 200's.  Would like <180 given recent
   surgery.
   - conintue NPH and SSI, add up SSI requirement and will add half to NPH
   dosing (split am and pm)
   - hold metformin until discharge
   - discuss ASA with Gyn before restarting
   # Hyperlipidemia: continue pravastatin
   # HIV
   - continue atazanavir, truvada, ritonavir
   - acyclovir ppx
   # FEN: ADAT in am; continue folic acid
   # PPX
   - PPI, Sub-q heparin, pneumoboots
   # Access: PIV
   # Full code
   # Contact: [**Telephone/Fax (1) 4907**] [**Name (NI) **] (friend)--need to call in am
   ICU Care
   Nutrition: ADAT to regarul
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2198-1-26**] 10:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU pending bp control

2198-01-27 11:02:00 Physician Attending Progress Note
Chief Complaint: Hyperension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still labile hypertension. Intermittently on IV beta blocker over the
   past 24 hours and received several doses of hydralazine. Amlodipine
   started; beta blocker increasesd. No tachycardia with hypertension.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2198-1-26**] 03:00 PM
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Amoxicillin
   Unknown;
   Abacavir
   Pt can never re
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-1-27**] 08:12 AM
   Ranitidine (Prophylaxis) - [**2198-1-27**] 08:12 AM
   Hydromorphone (Dilaudid) - [**2198-1-27**] 10:00 AM
   Hydralazine - [**2198-1-27**] 10:40 AM
   Other medications:
   HAART, lisonopril, folic acid, metoprolol, acyclovir, colace, HCTZ,
   donnatol, Insulin, norvasc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-27**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 93 (74 - 100) bpm
   BP: 190/85(111) {121/52(68) - 198/85(112)} mmHg
   RR: 16 (0 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  5,518 mL
                                                                    600 mL
   PO:
                                                                    200 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  5,318 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,475 mL
   Urine:
                                                                  2,380 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,338 mL
                                                                   -875 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base radiating to the neck.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mid-epidgastric, Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   319 K/uL
   159 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   91 mEq/L
   127 mEq/L
   27.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2198-1-26**]  04:59 AM
                             [**2198-1-27**]  04:59 AM
   WBC
   8.7
   9.0
   Hct
   32.0
   27.7
   Plt
   322
   319
   Cr
   0.7
   0.6
   Glucose
   243
   159
   Other labs: PT / PTT / INR:13.4/34.5/1.1, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERTENSION, BENIGN
   ANEMIA
   HYPONATREMIA
   Remains hypertensive with mild tachcardia. Would continue to push beta
   blockers given that HR is in 90's. No evidence for pheo based on HR and
   not truly episodic hypertension. No chest discomfort or shortness of
   breath.
   Patient beginning to auto-diurese. Stop HCTZ given her hyponatremia.
   Autodiuresis should help hyponatremia as long as we don't give
   significant free water; suspect low Na partly due to HCTZ therapy.
   Hct down post-op. Not at transfusion threshold. Doubt significant
   ongoing bleeding.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2198-1-26**] 10:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2198-01-28 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NPH increased from 20u->25u [**Hospital1 7**]
   - Continued to be hypertensive from SBPs 180s-200s yesterday PM, given
   IV Hydralazine 10mg x 2; Hydralazine PO 10mg, 25mg; Amlodipine 5mg
   - Renal doppler study ordered for ?RAS
   - PM lytes showed Na to be 126 from 127. Euvolemic ordered urine lytes,
   Osms, placed on 1.5L fluid restrict
   - notified at 0450 pt complaining of chest pain. EKG showed no acute
   changes, pt was asleep at bedside examination in no pain. Had some
   central sternal c/p with cough, worse with breathing in.
   This am the patient continues to comlain of [**6-27**] pleuritic central
   chest pain which is constant.  Denies SOB or dizziness.  Has been
   coughing and is worse with coughing.  Also states she has new right
   lateral thigh numbness this am.  Also with lower back pain.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Amoxicillin
   Unknown;
   Abacavir
   Pt can never re
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2198-1-27**] 08:12 AM
   Hydromorphone (Dilaudid) - [**2198-1-27**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2198-1-28**] 12:00 AM
   Hydralazine - [**2198-1-28**] 01:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-28**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 78 (78 - 100) bpm
   BP: 141/64(81) {83/55(70) - 199/85(111)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,300 mL
                                                                    100 mL
   PO:
                                                                  1,300 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,400 mL
   Urine:
                                                                  3,085 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,785 mL
                                                                 -1,300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90% on 2 L NC
   ABG: ///27/
   Physical Examination
   General Appearance: Middle-aged obese female lying in bed in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, mmm
   Cardiovascular: regular rate 2/6 SEM at apex; chest pain reproducible
   with palpation
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, surgical incisions C/D/I with stable,
   minimal drainage
   Back: tenderness to palpation in her lower back over her spine.
   Extremities: slight edema present b/l.
   Skin:  Warm
   Neurologic: alert and appropriate, numbness in her right lateral thigh,
   otherwise sensation to light touch is intact.  5/5 strength in her
   lower extremities b/l.
   Labs / Radiology
   345 K/uL
   10.6 g/dL
   175 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   89 mEq/L
   125 mEq/L
   28.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2198-1-26**]  04:59 AM
                             [**2198-1-27**]  04:59 AM
                             [**2198-1-27**]  06:33 PM
                             [**2198-1-28**]  05:10 AM
   WBC
   8.7
   9.0
   10.8
   Hct
   32.0
   27.7
   29.3
   28.8
   Plt
   322
   319
   345
   Cr
   0.7
   0.6
   0.7
   0.5
   Glucose
   243
   159
   180
   175
   Other labs: PT / PTT / INR:12.8/32.1/1.1, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   47F with HTN, DM, HIV on HAART, s/p TAH for fibroids, with somnolence
   requiring BiPAP in PACU after receiving analgesics, also with
   hypertensive urgency and continuing hypertesion.
   # HTN:  Continued to be HTN to 200's requiring po prn po and iv
   medications.  Has responded well to hydralizine, but given that it is a
   q6h dosing, need to have her on something less frequent as she will
   likely need to be discharged on this.  Hctz was stopped yesterday due
   to hyponatremia.
   - goal BP's 140-160--goal was 160-170 with first 24 hours, but has
   continued to be in hypertensive urgency, so should still be cautious of
   lower bp too aggressively and cauing cerebral ischemia [**2-19**] to
   autoregulation
   - continue lisinopril40 qd, metoprolol increased to 75/50/75 mg tid
   yesterday, Amlodipine was increased to 10 mg daily ysterday.  Also on
   hydralazine 25 mg q 6h.  Consider increasing metoprolol if her SBPs
   remain uncontrolled.
   - had abd CT in [**Month (only) **], no evidence of adrenal mass
   - Will obtain a renal US with dopplers to evaluate for RAS
   - continue iv hydral prn
   # Hyponatremia/Hypochloremia: Na 125 this am (from 126) and Cl 89 this
   morning, have been low in past.  Likely [**2-19**] to diuretic use, however it
   did not improve after HCTZ was stopped yesterday.  Potassium is low, so
   unlikely to be due to adrenal insufficency.  TTE showed EF of > 55% in
   [**2196**] and no history of heart failure.  The patient appears volume
   overloaded.  Una 48, Ucl 36, Uosm 232.  Una > 40 would support SIADH as
   the kidneys are not holding onto Na avidly.  Patient is
   auto-diuresising which may be contributing to her hyponatremia.
   - Continue free water restriction of 1.5 L/day.
   - Recheck lytes this afternoon, if not improving would free water
   restrict to 1 L/day.
   - Pain control with percocet prn.
   # Chest pain: Was resolved by morning rounds.  Was likely
   musculoskeletal pain vs pleuritic pain from her lungs given no EKG
   changes and the description of the pain as well as its reproducibility
   on exam.
   - Continue to monitor.
   - Recheck and EKG if her pain changes at all.
   - Pain control with percocet prn.
   # s/p TAH:  Minimal pain this morning, not requiring dilaudid often.
   Seroosanguinous drainage from incision as is expected
   - pain control with percocet prn, dilaudid if necessary (received ; No
   Toradol [**2-19**] G6PD)
   - encourage ambulation
   - ADAT
   # Diabetes: Patient
s NPH was increased from 20qam/pm to 25 units [**Hospital1 **].
   Sugars still in 200's.  Would like <180 given recent surgery.
   - conintue NPH and SSI, continue to monitor for the day and consider
   further increases in NPH tomorrow as her NPH was just changed
   yesterday.
   - hold metformin until discharge
   - discuss ASA with Gyn before restarting
   # Hyperlipidemia: continue pravastatin
   # HIV
   - continue atazanavir, truvada, ritonavir
   - acyclovir ppx
   # Contact: [**Telephone/Fax (1) 4907**] [**Name (NI) **] (friend)
   ICU [**Name (NI) 81**]
   Nutrition: Regular diet
   Glycemic Control:  as above
   Lines:
   20 Gauge - [**2198-1-26**] 01:29 AM
   Prophylaxis:
   DVT: SQH and boots
   Stress ulcer: none indicated, on ranitidine now
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will monitor during the day today and if BP stable can be
   called out to OB/GYN

2198-01-28 11:11:00 Physician Attending Progress Note
Chief Complaint: Hypertension, altered mental status, anemia,
   hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP has remained elevated through the day; anti-hypertensives increased.
   Has not required IV beta blockers.
   Serum Na remains low.
   Had chest discomfort this AM. ECG without changes. Pain is pleuritic
   and reproducible with palpation.
   O2 sats good off supplemental oxygen.
   24 Hour Events:
 EKG - At [**2198-1-28**] 04:53 AM
   pt c/o cp
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Amoxicillin
   Unknown;
   Abacavir
   Pt can never re
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2198-1-27**] 06:15 PM
   Hydralazine - [**2198-1-28**] 01:24 AM
   Heparin Sodium (Prophylaxis) - [**2198-1-28**] 08:45 AM
   Ranitidine (Prophylaxis) - [**2198-1-28**] 08:45 AM
   Other medications:
   HAART, iron, provachol, lisinopril, folic acid, acyclovir, colace,
   zantac,donnatol, insulin, norvasc, lopressor, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-28**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 87 (78 - 96) bpm
   BP: 129/112(116) {83/55(70) - 199/112(116)} mmHg
   RR: 28 (7 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,300 mL
                                                                    700 mL
   PO:
                                                                  1,300 mL
                                                                    700 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,800 mL
   Urine:
                                                                  3,085 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,785 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur left sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   345 K/uL
   175 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   89 mEq/L
   125 mEq/L
   28.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2198-1-26**]  04:59 AM
                             [**2198-1-27**]  04:59 AM
                             [**2198-1-27**]  06:33 PM
                             [**2198-1-28**]  05:10 AM
   WBC
   8.7
   9.0
   10.8
   Hct
   32.0
   27.7
   29.3
   28.8
   Plt
   322
   319
   345
   Cr
   0.7
   0.6
   0.7
   0.5
   Glucose
   243
   159
   180
   175
   Other labs: PT / PTT / INR:12.8/32.1/1.1, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERTENSION, BENIGN
   ANEMIA
   Patient's BP gradually improving. Continue to adjust
   anti-hypertensives.
   Oxygenation good off supplemental oxygen.
   Serum Na remains low. Patient appears to be autodiuresing. Will
   restrict free water today.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition: oral; free water restriction
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2198-1-26**] 01:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes